US07582673B2
To a solution of 2-thiopheneethylamine (1.5 g, 11.8 mmol) and 37% aqueous formaldehyde (3.9 ml, 47.2 mmol) in ethanol (10 mL), concentrated hydrochloric acid (3.9 mL) was added and the resulting solution was heated at 50° C. for 6 h. All volatiles were removed under reduced pressure. The residue was taken up in dioxane (13 mL) and 2 N aq. NaOH solution (12.8 mL) and cooled to 0° C. The reaction mixture was treated with di-t-butyldicarbonate (2.24 g, 10.28 mmol) and stirred for 10 at room temperature. The reaction mixture was diluted with ethyl acetate (25 mL) and the aqueous layer was extracted with ethyl acetate (10 mL). The combined organic phase was washed with water, brine, and dried over Na2SO4. Solvent was removed under reduced pressure and the product was purified by silica gel column chromatography eluting with 3% EtOAc/hexanes to obtain 1.7 g of 6,7-dihydro-4H-thieno[3,2-c]pyridine-5-carboxylic acid tert-butyl ester.

reactant | 2-thiopheneethylamine | 11.8 mmol, 1.5 g | S1C(=CC=C1)CCN | C6H9NS
reactant | formaldehyde | 47.2 mmol, 3.9 ml | C=O | CH2O
reactant | di-t-butyldicarbonate | 10.28 mmol, 2.24 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | hydrochloric acid | 3.9 mL | Cl | ClH
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 6,7-dihydro-4H-thieno[3,2-c]pyridine-5-carboxylic acid tert-butyl ester | 1.7 g | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC=C2 | C12H17NO2S
